US07094780B1
Synthesis of 2-cyclopropylamino-5-fluoro-6-methylsulfanylnicotinic acid ethyl ester
A solution of 8.7 g (34.8 mmol) of 2-chloro-5-fluoro-6-methylsulfanylnicotinic acid ethyl ester (J. Med. Chem., 1993; 36:2676) and 5.7 g (100 mmol) of cyclopropylamine in 100 mL of acetonitrile is heated at reflux for 18 hours. After TLC showed the presence of unreacted starting material, 4.12 g (72 mmol) of cyclopropylamine is added and the reaction mixture is refluxed for 48 hours. The solvent is removed in vacuo and the residue is partitioned between dichloromethane (250 mL) and water (100 mL). The organic layer is washed with water, dried (MgSO4), filtered, and concentrated in vacuo. The residue is chromatographed over flash grade silica gel (230–400 mesh) eluting with dichloromethane to give 6.5 g of the title compound, mp 67–69° C.

reactant | 2-chloro-5-fluoro-6-methylsulfanylnicotinic acid ethyl ester | 34.8 mmol, 8.7 g | C(C)OC(C1=C(N=C(C(=C1)F)SC)Cl)=O | C9H9ClFNO2S
reactant | cyclopropylamine | 100 mmol, 5.7 g | C1(CC1)N | C3H7N
reactant | cyclopropylamine | 72 mmol, 4.12 g | C1(CC1)N | C3H7N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-cyclopropylamino-5-fluoro-6-methylsulfanylnicotinic acid ethyl ester | 6.5 g | C(C)OC(C1=C(N=C(C(=C1)F)SC)NC1CC1)=O | C12H15FN2O2S
